US08536183B2
1-{[4-(Trifluoromethyl)phenyl]sulfonyl}piperazine
To a solution of 1,1-dimethylethyl 1-piperazinecarboxylate (5.00 g, 26.8 mmol) in DCM (200 ml) was added DIPEA (9.85 ml, 56.4 mmol) and then 4-(trifluoromethyl)benzenesulfonyl chloride (7.22 g, 29.5 mmol). The reaction mixture was stirred for 1.5 hours at room temperature. The reaction mixture was then reduced to dryness in vacuo, to yield the title compound.

reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 26.8 mmol, 5.00 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIPEA | 56.4 mmol, 9.85 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(trifluoromethyl)benzenesulfonyl chloride | 29.5 mmol, 7.22 g | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-{[4-(Trifluoromethyl)phenyl]sulfonyl}piperazine | FC(C1=CC=C(C=C1)S(=O)(=O)N1CCNCC1)(F)F | C11H13F3N2O2S
